US05719155
Synthesis of methyl pyrazole-4-carboxylate
4-Pyrazolecarboxylic acid (514 mg) was dissolved in methanol (10 ml) and sulfuric acid (0.25 ml), and the mixture was stirred at room temperature for 2 hours, followed by refluxing under heating for 4 hours. After cooling, a 28% solution (0.95 ml) of sodium methylate in methanol was added to the reaction mixture for neutralization and the solvent was distilled away. Chloroform was added to the residue, and the residue was washed with water and brine and dried over anhydrous magnesium sulfate. The solvent was distilled away to give 433 mg of the title compound.

reactant | 4-Pyrazolecarboxylic acid | 514 mg | N1N=CC(=C1)C(=O)O | C4H4N2O2
reactant | sodium methylate | C[O-].[Na+]
solvent | methanol | 10 ml | CO | CH4O
solvent | sulfuric acid | 0.25 ml | S(O)(O)(=O)=O | H2O4S
product | methyl pyrazole-4-carboxylate | 433 mg | N1N=CC(=C1)C(=O)OC | C5H6N2O2
